US04954509
1-(pyrrolidin-1-yl)methyl-2-(3,4-dichlorophenyl)acetyl-5,6-dimethoxy-1,2,3,4-tetrahydroisoquinoline hydrochloride
Prepared as Ex. No. 33, from 1.3 g (4.71 mmoles) of 1-(pyrrolidin-1-yl)methyl-5,6-dimethoxy-1,2,3,4-tetrahydroisoquinoline and 1.1 g (4.92 mmoles) of 3,4-dichlorophenyl acetyl chloride in 40 ml of dry chloroform. The crude product was crystallized from 40 ml of ethyl acetate, to yield 1.3 g of the title compound.

reactant | 1-(pyrrolidin-1-yl)methyl-5,6-dimethoxy-1,2,3,4-tetrahydroisoquinoline | 4.71 mmoles, 1.3 g | N1(CCCC1)CC1NCCC2=C(C(=CC=C12)OC)OC | C16H24N2O2
reactant | 3,4-dichlorophenyl acetyl chloride | 4.92 mmoles, 1.1 g | ClC=1C=C(C=CC1Cl)CC(=O)Cl | C8H5Cl3O
solvent | chloroform | 40 ml | C(Cl)(Cl)Cl | CHCl3
product | 1-(pyrrolidin-1-yl)methyl-2-(3,4-dichlorophenyl)acetyl-5,6-dimethoxy-1,2,3,4-tetrahydroisoquinoline hydrochloride | 1.3 g | Cl.N1(CCCC1)CC1(NCCC2=C(C(=CC=C12)OC)OC)C(CC1=CC(=C(C=C1)Cl)Cl)=O | InChI=1S/C24H28Cl2N2O3.ClH/c1-30-21-8-6-18-17(23(21)31-2)9-10-27-24(18,15-28-11-3-4-12-28)22(29)14-16-5-7-19(25)20(26)13-16;/h5-8,13,27H,3-4,9-12,14-15H2,1-2H3;1H
